*
*|DSPF 1.5
*
*|DATE "Wed May  8 12:01:33 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "SMDFFHQX1"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  SMDFFHQX1 D0 Q CK S0 SE D1 SI
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET D0 3.51905e-16
*|P (D0 X 0 4.7000 0.8550)
*|I (Mmn1:g Mmn1 g X 0 4.8675 0.3950)
*|I (Mmp1:g Mmp1 g X 0 4.8325 1.2850)
*|S (D0:2 4.8275 0.8500)
*|S (D0:3 4.7100 0.8500)
C1 Mmp1:g VSS 9.99296e-17
C2 Mmn1:g VSS 5.33574e-17
C3 D0:2 VSS 4.23661e-17
C4 D0:3 VSS 2.49909e-17
C5 D0 VSS 1.31261e-16
Rl1 D0:2 D0:3 56.664967 $W=0.114
Rl2 Mmn1:g D0:2 121.733864 $W=0.039
Rl3 D0:2 Mmp1:g 76.864098 $W=0.039
Rk4 D0:3 D0 0.003002 $W=0.1
*
*|NET Q 1.10823e-16
*|P (Q X 0 0.1000 0.6650)
*|I (Mmn55:d Mmn55 d X 0 0.1250 0.5300)
*|I (Mmp55:d Mmp55 d X 0 0.1250 1.1450)
C6 Mmp55:d VSS 5.70459e-17
C7 Mmn55:d VSS 5.37768e-17
Rk5 Q Mmn55:d 75.059669 $W=0.06
Rk6 Mmp55:d Q 21.026836 $W=0.09
*
*|NET CK 2.1829e-16
*|P (CK X 0 0.3000 1.0450)
*|I (Mmn20:g Mmn20 g X 0 0.4875 0.5875)
*|I (Mmp20:g Mmp20 g X 0 0.4875 1.0575)
*|S (CK:2 0.4600 0.8400)
C8 Mmp20:g VSS 3.21291e-17
C9 Mmn20:g VSS 4.33258e-17
C10 CK:2 VSS 8.41014e-17
C11 CK VSS 5.87333e-17
Rl7 CK:2 Mmn20:g 56.461002 $W=0.039
Rl8 Mmp20:g CK:2 29.537928 $W=0.039
Rk9 CK:2 CK 45.197289 $W=0.1
*
*|NET S0 5.7985e-16
*|P (S0 X 0 5.3000 0.6650)
*|I (Mmn4:g Mmn4 g X 0 5.3425 0.3950)
*|I (Mmn0:g Mmn0 g X 0 5.6825 0.4525)
*|I (Mmp2:g Mmp2 g X 0 4.9375 1.2850)
*|I (Mmp0:g Mmp0 g X 0 5.6825 1.1975)
*|S (S0:1 5.0300 0.9800)
*|S (S0:4 5.3050 0.6750)
*|S (S0:5 5.7600 0.7050)
*|S (S0:6 5.6825 0.7050)
C12 Mmp0:g VSS 5.12558e-17
C13 Mmp2:g VSS 7.25959e-17
C14 Mmn0:g VSS 3.35002e-17
C15 Mmn4:g VSS 7.09956e-17
C16 S0:6 VSS 3.20513e-17
C17 S0:1 VSS 1.26658e-16
C18 S0:4 VSS 4.61606e-17
C19 S0:5 VSS 6.51777e-17
C20 S0 VSS 8.14558e-17
Rl10 S0:5 S0:6 48.733437 $W=0.114
Rl11 Mmn4:g S0:4 88.463600 $W=0.039
Rl12 S0:6 Mmn0:g 64.264214 $W=0.039
Rl13 S0:1 Mmp2:g 81.425339 $W=0.039
Rl14 S0:6 Mmp0:g 143.110367 $W=0.039
Rk15 S0 S0:4 0.002702 $W=0.08
Rk16 S0:4 S0:5 0.324430 $W=0.08
Rk17 S0:1 S0 0.396820 $W=0.08
*
*|NET SE 4.90825e-16
*|P (SE X 0 4.5000 0.8550)
*|I (Mmn13:g Mmn13 g X 0 3.9075 0.4950)
*|I (Mmn10:g Mmn10 g X 0 4.6325 0.4525)
*|I (Mmp11:g Mmp11 g X 0 4.0375 1.1950)
*|I (Mmp10:g Mmp10 g X 0 4.6275 1.3725)
*|S (SE:2 4.5100 0.8750)
*|S (SE:3 4.0375 0.9025)
*|S (SE:8 4.5050 0.8750)
C21 Mmp10:g VSS 4.72425e-17
C22 Mmp11:g VSS 3.16394e-17
C23 Mmn10:g VSS 4.223e-17
C24 Mmn13:g VSS 8.67697e-17
C25 SE:8 VSS 6.40541e-17
C26 SE:3 VSS 6.909e-17
C27 SE:2 VSS 7.57605e-17
C28 SE VSS 7.40388e-17
Rl18 SE:2 SE:3 157.168869 $W=0.039
Rl19 SE:3 Mmn13:g 137.260712 $W=0.039
Rl20 Mmn10:g SE:2 135.336945 $W=0.039
Rl21 SE:3 Mmp11:g 35.771992 $W=0.039
Rl22 SE:2 Mmp10:g 148.798477 $W=0.039
Rk23 SE SE:8 0.012010 $W=0.1
Rk24 SE:2 SE:8 45.000000 $W=0.1
*
*|NET D1 3.05978e-16
*|P (D1 X 0 5.5000 0.8550)
*|I (Mmn3:g Mmn3 g X 0 5.4475 0.3950)
*|I (Mmp3:g Mmp3 g X 0 5.4475 1.2850)
*|S (D1:2 5.4750 0.8650)
*|S (D1:4 5.4750 0.8650)
C29 Mmp3:g VSS 5.47777e-17
C30 Mmn3:g VSS 8.62747e-17
C31 D1:2 VSS 5.1487e-17
C32 D1 VSS 1.13439e-16
Rl25 D1:2 Mmn3:g 117.999466 $W=0.039
Rl26 Mmp3:g D1:2 73.768692 $W=0.039
Rk27 D1:4 D1 0.012790 $W=0.125
Rk28 D1:2 D1:4 45.000000 $W=0.125
*
*|NET SI 3.52734e-16
*|P (SI X 0 3.5000 0.6650)
*|I (Mmn12:g Mmn12 g X 0 3.8025 0.4950)
*|I (Mmp12:g Mmp12 g X 0 3.7275 1.1950)
*|S (SI:2 3.7275 0.7600)
*|S (SI:3 3.5850 0.7600)
C33 Mmp12:g VSS 8.91153e-17
C34 Mmn12:g VSS 7.05035e-17
C35 SI:2 VSS 3.49802e-17
C36 SI:3 VSS 1.07168e-16
C37 SI VSS 5.09666e-17
Rl29 SI:2 SI:3 60.559937 $W=0.114
Rl30 Mmn12:g SI:2 59.124977 $W=0.039
Rl31 SI:2 Mmp12:g 74.461906 $W=0.039
Rk32 SI:3 SI 0.018018 $W=0.22
*
*|NET qbint 6.38735e-16
*|I (Mmn55:g Mmn55 g X 0 0.2175 0.5300)
*|I (Mmn45:d Mmn45 d X 0 0.9800 0.4175)
*|I (Mmn50:g Mmn50 g X 0 1.3025 0.4175)
*|I (Mmp55:g Mmp55 g X 0 0.2175 1.1450)
*|I (Mmp45:d Mmp45 d X 0 1.0500 1.1200)
*|I (Mmp50:g Mmp50 g X 0 1.4075 1.1200)
*|S (qbint:1 0.2750 0.7600)
*|S (qbint:2 0.2175 0.7600)
*|S (qbint:6 1.2750 0.8550)
*|S (qbint:8 0.9550 0.8550)
*|S (qbint:10 0.9550 0.4400)
C38 Mmp50:g VSS 6.62738e-17
C39 Mmp45:d VSS 4.37521e-17
C40 Mmp55:g VSS 4.72213e-17
C41 Mmn50:g VSS 5.99724e-17
C42 Mmn45:d VSS 8.39949e-17
C43 Mmn55:g VSS 2.97516e-17
C44 qbint:8 VSS 3.91866e-17
C45 qbint:2 VSS 1.57265e-17
C46 qbint:1 VSS 1.63424e-16
C47 qbint:6 VSS 8.94319e-17
Rl33 qbint:1 qbint:2 46.271347 $W=0.094
Rl34 qbint:2 Mmn55:g 34.329510 $W=0.039
Rl35 qbint:6 Mmn50:g 111.333519 $W=0.039
Rl36 qbint:2 Mmp55:g 68.944893 $W=0.039
Rl37 Mmp50:g qbint:6 45.853485 $W=0.039
Rk38 qbint:6 qbint:8 45.211578 $W=0.08
Rk39 qbint:10 qbint:1 0.718072 $W=0.08
Rk40 qbint:8 qbint:10 0.301870 $W=0.09
Rk41 Mmn45:d qbint:10 75.000000 $W=0.08
Rk42 qbint:8 Mmp45:d 62.190762 $W=0.08
*
*|NET CKb 1.0496e-15
*|I (Mmn20:d Mmn20 d X 0 0.6050 0.5875)
*|I (Mmn51:g Mmn51 g X 0 1.4825 0.4175)
*|I (Mmn25:g Mmn25 g X 0 3.0175 0.4175)
*|I (Mmn21:g Mmn21 g X 0 3.5975 0.4375)
*|I (Mmp20:d Mmp20 d X 0 0.6050 1.0575)
*|I (Mmp40:g Mmp40 g X 0 1.8625 1.1200)
*|I (Mmp36:g Mmp36 g X 0 2.8425 1.1200)
*|I (Mmp21:g Mmp21 g X 0 3.4525 1.2825)
*|S (CKb:2 1.4450 0.6950)
*|S (CKb:4 1.8250 0.8500)
*|S (CKb:6 3.4525 0.6175)
*|S (CKb:7 3.0175 0.6175)
*|S (CKb:9 2.8050 1.3750)
*|S (CKb:12 1.8550 1.1850)
*|S (CKb:13 1.4650 1.1775)
*|S (CKb:15 0.6400 1.0100)
C48 Mmp21:g VSS 6.06667e-17
C49 Mmp36:g VSS 4.16514e-17
C50 Mmp40:g VSS 2.37532e-17
C51 Mmp20:d VSS 9.03337e-17
C52 Mmn21:g VSS 4.42807e-17
C53 Mmn25:g VSS 2.46406e-17
C54 Mmn51:g VSS 4.78082e-17
C55 Mmn20:d VSS 5.77219e-17
C56 CKb:13 VSS 1.22384e-16
C57 CKb:12 VSS 9.99261e-17
C58 CKb:7 VSS 5.04032e-17
C59 CKb:6 VSS 5.55406e-17
C60 CKb:2 VSS 1.23506e-16
C61 CKb:4 VSS 7.79666e-17
C62 CKb:9 VSS 1.29013e-16
Rl43 CKb:6 CKb:7 163.851685 $W=0.039
Rl44 Mmn51:g CKb:2 98.078979 $W=0.039
Rl45 CKb:7 Mmn25:g 30.450726 $W=0.039
Rl46 Mmn21:g CKb:6 86.516357 $W=0.039
Rl47 Mmp40:g CKb:4 75.002060 $W=0.039
Rl48 Mmp36:g CKb:9 69.232826 $W=0.039
Rl49 CKb:7 Mmp36:g 172.620468 $W=0.039
Rl50 CKb:6 Mmp21:g 207.373810 $W=0.039
Rk51 CKb:12 CKb:9 0.740801 $W=0.09
Rk52 CKb:4 CKb:12 0.229980 $W=0.1
Rk53 CKb:13 CKb:2 0.357838 $W=0.08
Rk54 CKb:12 CKb:13 0.363679 $W=0.06
Rk55 CKb:13 CKb:15 0.682281 $W=0.09
Rk56 CKb:15 Mmn20:d 75.273987 $W=0.1
Rk57 Mmp20:d CKb:15 62.000000 $W=0.09
*
*|NET n30 3.86033e-16
*|I (Mmn45:g Mmn45 g X 0 1.0875 0.4175)
*|I (Mmn51:d Mmn51 d X 0 1.6100 0.4175)
*|I (Mmp45:g Mmp45 g X 0 1.1425 1.1200)
*|I (Mmp51:d Mmp51 d X 0 1.7275 1.1200)
*|S (n30:2 1.1150 0.6300)
*|S (n30:5 1.6350 0.5350)
C63 Mmp51:d VSS 9.74052e-17
C64 Mmp45:g VSS 5.97201e-17
C65 Mmn51:d VSS 1.82155e-17
C66 Mmn45:g VSS 2.82633e-17
C67 n30:5 VSS 6.70565e-17
C68 n30:2 VSS 1.15372e-16
Rl58 n30:2 Mmn45:g 29.945055 $W=0.039
Rl59 Mmp45:g n30:2 117.307693 $W=0.039
Rk60 n30:5 n30:2 45.416191 $W=0.09
Rk61 Mmn51:d n30:5 75.060928 $W=0.1
Rk62 n30:5 Mmp51:d 62.395657 $W=0.08
*
*|NET net482 2.77605e-18
*|I (Mmn50:d Mmn50 d X 0 1.3925 0.4175)
*|I (Mmn51:s Mmn51 s X 0 1.3925 0.4175)
C69 Mmn50:d VSS 2.77605e-18
Rmw63 Mmn51:s Mmn50:d 0.001000 $W=1
*
*|NET mout 3.87358e-16
*|I (Mmn40:d Mmn40 d X 0 2.0375 0.4175)
*|I (Mmn35:g Mmn35 g X 0 2.6025 0.4175)
*|I (Mmp40:s Mmp40 s X 0 2.1000 1.1200)
*|I (Mmp35:g Mmp35 g X 0 2.6025 1.1200)
*|S (mout:2 2.6025 0.6200)
*|S (mout:3 2.5350 0.6200)
*|S (mout:5 2.1750 0.6200)
C70 Mmp35:g VSS 6.35276e-17
C71 Mmp40:s VSS 6.03535e-17
C72 Mmn35:g VSS 5.38672e-17
C73 Mmn40:d VSS 5.01007e-17
C74 mout:5 VSS 5.68146e-17
C75 mout:2 VSS 3.89394e-17
C76 mout:3 VSS 6.37548e-17
Rl64 mout:2 mout:3 47.766560 $W=0.094
Rl65 mout:2 Mmn35:g 34.329510 $W=0.039
Rl66 Mmp35:g mout:2 128.560272 $W=0.039
Rk67 mout:3 mout:5 0.242114 $W=0.09
Rk68 mout:5 Mmn40:d 75.178970 $W=0.08
Rk69 mout:5 Mmp40:s 62.285667 $W=0.09
*
*|NET CKbb 9.57606e-16
*|I (Mmn40:g Mmn40 g X 0 1.7375 0.4175)
*|I (Mmn36:g Mmn36 g X 0 2.7175 0.4175)
*|I (Mmn21:d Mmn21 d X 0 3.5050 0.4375)
*|I (Mmp51:g Mmp51 g X 0 1.5925 1.1200)
*|I (Mmp25:g Mmp25 g X 0 3.0775 1.1200)
*|I (Mmp21:d Mmp21 d X 0 3.3600 1.2825)
*|S (CKbb:2 1.7375 0.6150)
*|S (CKbb:4 2.0150 0.6500)
*|S (CKbb:6 2.7550 0.6550)
*|S (CKbb:8 3.1050 0.8400)
*|S (CKbb:10 3.1050 0.3000)
*|S (CKbb:11 2.7250 0.3000)
C77 Mmp21:d VSS 7.42003e-17
C78 Mmp25:g VSS 3.86459e-17
C79 Mmp51:g VSS 6.34436e-17
C80 Mmn21:d VSS 6.2498e-17
C81 Mmn36:g VSS 5.47167e-17
C82 Mmn40:g VSS 2.42945e-17
C83 CKbb:11 VSS 1.20607e-16
C84 CKbb:10 VSS 9.14889e-17
C85 CKbb:2 VSS 5.03218e-17
C86 CKbb:4 VSS 1.36342e-16
C87 CKbb:6 VSS 9.59697e-17
C88 CKbb:8 VSS 1.45078e-16
Rl70 CKbb:2 CKbb:4 126.048317 $W=0.044
Rl71 Mmn40:g CKbb:2 28.857958 $W=0.039
Rl72 Mmn36:g CKbb:6 82.694366 $W=0.039
Rl73 CKbb:2 Mmp51:g 178.636398 $W=0.039
Rl74 Mmp25:g CKbb:8 80.307159 $W=0.039
Rk75 CKbb:10 CKbb:8 0.375765 $W=0.09
Rk76 CKbb:11 CKbb:6 0.234728 $W=0.08
Rk77 CKbb:11 CKbb:4 0.872912 $W=0.09
Rk78 CKbb:10 CKbb:11 0.284462 $W=0.09
Rk79 Mmn21:d CKbb:10 75.370140 $W=0.08
Rk80 CKbb:8 Mmp21:d 62.498924 $W=0.09
*
*|NET n20 4.05293e-16
*|I (Mmn30:g Mmn30 g X 0 2.3375 0.4175)
*|I (Mmn36:d Mmn36 d X 0 2.8675 0.4175)
*|I (Mmp30:g Mmp30 g X 0 2.3375 1.1200)
*|I (Mmp36:d Mmp36 d X 0 2.9600 1.1200)
*|S (n20:2 2.3650 0.8150)
*|S (n20:5 2.9450 0.8150)
C89 Mmp36:d VSS 6.83298e-17
C90 Mmp30:g VSS 4.05304e-17
C91 Mmn36:d VSS 6.7573e-17
C92 Mmn30:g VSS 4.7763e-17
C93 n20:5 VSS 8.12176e-17
C94 n20:2 VSS 9.98789e-17
Rl81 n20:2 Mmn30:g 100.691772 $W=0.039
Rl82 Mmp30:g n20:2 44.922543 $W=0.039
Rk83 n20:5 n20:2 45.398041 $W=0.09
Rk84 n20:5 Mmn36:d 75.283348 $W=0.08
Rk85 Mmp36:d n20:5 31.223907 $W=0.08
*
*|NET net474 6.70793e-19
*|I (Mmn35:d Mmn35 d X 0 2.6600 0.4175)
*|I (Mmn36:s Mmn36 s X 0 2.6600 0.4175)
C95 Mmn35:d VSS 6.70793e-19
Rmw86 Mmn36:s Mmn35:d 0.001000 $W=1
*
*|NET dbp 4.30916e-16
*|I (Mmn25:d Mmn25 d X 0 3.1975 0.4175)
*|I (Mmn13:d Mmn13 d X 0 4.0250 0.4950)
*|I (Mmp25:s Mmp25 s X 0 3.2775 1.0250)
*|I (Mmp13:d Mmp13 d X 0 3.9350 1.1950)
*|S (dbp:2 3.7450 1.1400)
*|S (dbp:4 3.2950 1.0250)
C96 Mmp13:d VSS 6.28124e-17
C97 Mmp25:s VSS 1.00302e-16
C98 Mmn13:d VSS 8.84088e-17
C99 Mmn25:d VSS 8.08449e-17
C100 dbp:2 VSS 9.85478e-17
Rk87 dbp:2 dbp:4 0.381364 $W=0.08
Rk88 dbp:4 Mmn25:d 75.432747 $W=0.08
Rk89 Mmn13:d dbp:2 75.591759 $W=0.08
Rk90 Mmp25:s dbp:4 62.000000 $W=0.08
Rk91 dbp:2 Mmp13:d 31.218670 $W=0.09
*
*|NET net490 0
*|I (Mmn12:d Mmn12 d X 0 3.8550 0.4950)
*|I (Mmn13:s Mmn13 s X 0 3.8550 0.4950)
Rmw92 Mmn13:s Mmn12:d 0.001000 $W=1
*
*|NET db 5.54014e-16
*|I (Mmn11:d Mmn11 d X 0 4.2775 0.4950)
*|I (Mmn2:d Mmn2 d X 0 5.2400 0.3950)
*|I (Mmp11:s Mmp11 s X 0 4.2375 1.1300)
*|I (Mmp2:d Mmp2 d X 0 5.0500 1.2850)
*|S (db:2 4.8700 1.2300)
*|S (db:3 4.3300 1.2000)
C101 Mmp2:d VSS 4.92423e-17
C102 Mmp11:s VSS 3.69654e-17
C103 Mmn2:d VSS 1.23647e-16
C104 Mmn11:d VSS 9.89133e-17
C105 db:3 VSS 1.15662e-16
C106 db:2 VSS 1.29585e-16
Rk93 db:2 db:3 0.411343 $W=0.08
Rk94 db:3 Mmn11:d 75.480812 $W=0.08
Rk95 Mmn2:d db:2 75.827873 $W=0.08
Rk96 db:3 Mmp11:s 62.040272 $W=0.12
Rk97 db:2 Mmp2:d 31.197880 $W=0.09
*
*|NET SEb 6.1299e-16
*|I (Mmn11:g Mmn11 g X 0 4.1425 0.4950)
*|I (Mmn10:d Mmn10 d X 0 4.5400 0.4525)
*|I (Mmp13:g Mmp13 g X 0 3.8325 1.1950)
*|I (Mmp10:d Mmp10 d X 0 4.5550 1.3725)
*|S (SEb:1 3.9050 0.8900)
*|S (SEb:4 4.1700 0.7600)
*|S (SEb:6 4.0950 0.9200)
C107 Mmp10:d VSS 1.08127e-16
C108 Mmp13:g VSS 7.25866e-17
C109 Mmn10:d VSS 8.68743e-17
C110 Mmn11:g VSS 3.65154e-17
C111 SEb:6 VSS 9.63183e-17
C112 SEb:1 VSS 9.33495e-17
C113 SEb:4 VSS 1.19219e-16
Rl98 Mmn11:g SEb:4 84.153313 $W=0.039
Rl99 SEb:1 Mmp13:g 79.660675 $W=0.039
Rk100 SEb:4 SEb:6 0.176718 $W=0.09
Rk101 SEb:6 SEb:1 0.143663 $W=0.08
Rk102 Mmn10:d SEb:4 75.564255 $W=0.09
Rk103 SEb:6 Mmp10:d 62.636127 $W=0.08
*
*|NET net498 6.52041e-18
*|I (Mmn1:d Mmn1 d X 0 5.0025 0.3950)
*|I (Mmn2:s Mmn2 s X 0 5.0025 0.3950)
C114 Mmn1:d VSS 6.52041e-18
Rmw104 Mmn2:s Mmn1:d 0.001000 $W=1
*
*|NET S0b 4.23472e-16
*|I (Mmn2:g Mmn2 g X 0 5.1375 0.3950)
*|I (Mmn0:d Mmn0 d X 0 5.7750 0.4525)
*|I (Mmp4:g Mmp4 g X 0 5.1625 1.2850)
*|I (Mmp0:d Mmp0 d X 0 5.7750 1.1975)
*|S (S0b:2 5.2000 0.9900)
*|S (S0b:6 5.7850 1.2450)
C115 Mmp0:d VSS 1.0672e-16
C116 Mmp4:g VSS 3.40862e-17
C117 Mmn0:d VSS 8.08513e-17
C118 Mmn2:g VSS 6.09407e-17
C119 S0b:2 VSS 1.40874e-16
Rl105 S0b:2 Mmn2:g 170.019775 $W=0.039
Rl106 Mmp4:g S0b:2 24.232828 $W=0.039
Rk107 S0b:6 S0b:2 45.545788 $W=0.08
Rk108 Mmn0:d S0b:6 75.660675 $W=0.09
Rk109 Mmp0:d S0b:6 62.000000 $W=0.09
*
*|NET net510 0
*|I (Mmn4:s Mmn4 s X 0 5.3950 0.3950)
*|I (Mmn3:d Mmn3 d X 0 5.3950 0.3950)
Rmw110 Mmn3:d Mmn4:s 0.001000 $W=1
*
*|NET net409 8.55417e-18
*|I (Mmp50:d Mmp50 d X 0 1.5000 1.1200)
*|I (Mmp51:s Mmp51 s X 0 1.5000 1.1200)
C120 Mmp50:d VSS 8.55417e-18
Rmw111 Mmp51:s Mmp50:d 0.001000 $W=1
*
*|NET net393 5.52914e-18
*|I (Mmp35:d Mmp35 d X 0 2.7225 1.1200)
*|I (Mmp36:s Mmp36 s X 0 2.7225 1.1200)
C121 Mmp35:d VSS 5.52914e-18
Rmw112 Mmp36:s Mmp35:d 0.001000 $W=1
*
*|NET net417 1.63895e-18
*|I (Mmp12:d Mmp12 d X 0 3.7800 1.1950)
*|I (Mmp13:s Mmp13 s X 0 3.7800 1.1950)
C122 Mmp12:d VSS 1.63895e-18
Rmw113 Mmp13:s Mmp12:d 0.001000 $W=1
*
*|NET net425 1.71352e-18
*|I (Mmp1:d Mmp1 d X 0 4.8850 1.2850)
*|I (Mmp2:s Mmp2 s X 0 4.8850 1.2850)
C123 Mmp1:d VSS 1.71352e-18
Rmw114 Mmp2:s Mmp1:d 0.001000 $W=1
*
*|NET net429 7.45545e-18
*|I (Mmp4:s Mmp4 s X 0 5.3050 1.2850)
*|I (Mmp3:d Mmp3 d X 0 5.3050 1.2850)
C124 Mmp4:s VSS 7.45545e-18
Rmw115 Mmp3:d Mmp4:s 0.001000 $W=1
*
*Instance Section
*
Mmn55	Mmn55:d	Mmn55:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0364P	AS=0.04873P	PD=0.8U	PS=0.97U
+ fw=2.6e-07 sa=1.4e-07 sb=3.18462e-07 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02755P	AS=0.04873P	PD=0.67U	PS=0.97U
+ fw=1.45e-07 sa=4.1e-07 sb=1.9e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn45	Mmn45:d	Mmn45:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.03485P	AS=0.03485P	PD=0.75U	PS=0.75U
+ fw=2.05e-07 sa=1.7e-07 sb=2e-06 sca=9.34441 scb=0.0079183 scc=0.000206043
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.02768P	AS=0.03485P	PD=0.68U	PS=0.75U
+ fw=2.05e-07 sa=3.85e-07 sb=2e-06 sca=9.34441 scb=0.0079183 scc=0.000206043
Mmn51	Mmn51:d	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.04305P	AS=0.02768P	PD=0.83U	PS=0.68U
+ fw=2.05e-07 sa=5.65e-07 sb=1.85e-06 sca=9.34441 scb=0.0079183 scc=0.000206043
Mmn40	Mmn40:d	Mmn40:g	Mmn51:d	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.11377P	AS=0.04305P	PD=1.52U	PS=0.83U
+ fw=2.05e-07 sa=8.2e-07 sb=1.595e-06 sca=9.34441 scb=0.0079183 scc=0.000206043
Mmn30	Mmn40:d	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.11377P	AS=0.0733P	PD=1.52U	PS=1.32U
+ fw=2.05e-07 sa=1.42e-06 sb=9.95e-07 sca=9.34441 scb=0.0079183 scc=0.000206043
Mmn35	Mmn35:d	Mmn35:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.01435P	AS=0.0733P	PD=0.55U	PS=1.32U
+ fw=2.05e-07 sa=1.685e-06 sb=7.3e-07 sca=9.34441 scb=0.0079183 scc=0.000206043
Mmn36	Mmn36:d	Mmn36:g	Mmn36:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.05227P	AS=0.01435P	PD=0.92U	PS=0.55U
+ fw=2.05e-07 sa=1.8e-06 sb=6.15e-07 sca=9.34441 scb=0.0079183 scc=0.000206043
Mmn25	Mmn25:d	Mmn25:g	Mmn36:d	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.06458P	AS=0.05228P	PD=1.04U	PS=0.92U
+ fw=2.05e-07 sa=2e-06 sb=3.15e-07 sca=9.34441 scb=0.0079183 scc=0.000206043
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0347P	PD=0.57U	PS=0.84U
+ fw=1.45e-07 sa=1.4e-07 sb=7.7e-07 sca=9.87692 scb=0.0087933 scc=0.000232488
Mmn12	Mmn12:d	Mmn12:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0347P	PD=0.64U	PS=0.84U
+ fw=2.6e-07 sa=2.36635e-07 sb=5.65e-07 sca=13.9783 scb=0.013979 scc=0.000942864
Mmn13	Mmn13:d	Mmn13:g	Mmn13:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0494P	AS=0.0156P	PD=0.9U	PS=0.64U
+ fw=2.6e-07 sa=3.41635e-07 sb=4.6e-07 sca=13.9783 scb=0.013979 scc=0.000942864
Mmn11	Mmn11:d	Mmn11:g	Mmn13:d	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0585P	AS=0.0494P	PD=0.97U	PS=0.9U
+ fw=2.6e-07 sa=5.76635e-07 sb=2.25e-07 sca=13.9783 scb=0.013979 scc=0.000942864
Mmn10	Mmn10:d	Mmn10:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.04365P	PD=0.57U	PS=0.9U
+ fw=1.45e-07 sa=1.4e-07 sb=1.19e-06 sca=10.4914 scb=0.00978575 scc=0.000300434
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0585P	AS=0.04365P	PD=0.97U	PS=0.9U
+ fw=2.6e-07 sa=2.71058e-07 sb=8.33365e-07 sca=8.81533 scb=0.00706435 scc=0.000179997
Mmn2	Mmn2:d	Mmn2:g	Mmn2:s	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0585P	PD=0.84U	PS=0.97U
+ fw=2.6e-07 sa=5.41058e-07 sb=5.63365e-07 sca=8.81533 scb=0.00706435 scc=0.000179997
Mmn4	Mmn2:d	Mmn4:g	Mmn4:s	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=7.46058e-07 sb=3.58365e-07 sca=8.81533 scb=0.00706435 scc=0.000179997
Mmn3	Mmn3:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.03905P	PD=0.64U	PS=0.9U
+ fw=2.6e-07 sa=8.51058e-07 sb=2.53365e-07 sca=8.81533 scb=0.00706435 scc=0.000179997
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.03905P	PD=0.57U	PS=0.9U
+ fw=1.45e-07 sa=1.19e-06 sb=1.4e-07 sca=10.4914 scb=0.00978575 scc=0.000300434
Mmp55	Mmp55:d	Mmp55:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0546P	AS=0.07288P	PD=1.06U	PS=1.23U
+ fw=3.9e-07 sa=1.4e-07 sb=3.1641e-07 sca=31.1408 scb=0.033664 scc=0.00281778
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.04085P	AS=0.07288P	PD=0.81U	PS=1.23U
+ fw=2.15e-07 sa=4.1e-07 sb=1.9e-07 sca=28.304 scb=0.0253194 scc=0.00302671
Mmp45	Mmp45:d	Mmp45:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0434P	AS=0.0838P	PD=0.9U	PS=1.32U
+ fw=3.1e-07 sa=1.4e-07 sb=2e-06 sca=19.1541 scb=0.0174883 scc=0.00172295
Mmp50	Mmp50:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0434P	AS=0.0838P	PD=0.9U	PS=1.32U
+ fw=3.1e-07 sa=4.05e-07 sb=1.83e-06 sca=19.1541 scb=0.0174883 scc=0.00172295
Mmp51	Mmp51:d	Mmp51:g	Mmp51:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.06975P	AS=0.0434P	PD=1.07U	PS=0.9U
+ fw=3.1e-07 sa=5.9e-07 sb=1.645e-06 sca=19.1541 scb=0.0174883 scc=0.00172295
Mmp40	Mmp51:d	Mmp40:g	Mmp40:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.06975P	AS=0.1333P	PD=1.07U	PS=1.48U
+ fw=3.1e-07 sa=8.6e-07 sb=1.375e-06 sca=19.1541 scb=0.0174883 scc=0.00172295
Mmp30	Mmp40:s	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.1333P	AS=0.0838P	PD=1.48U	PS=1.32U
+ fw=3.1e-07 sa=1.335e-06 sb=9e-07 sca=19.1541 scb=0.0174883 scc=0.00172295
Mmp35	Mmp35:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.06045P	AS=0.0838P	PD=1.01U	PS=1.32U
+ fw=3.1e-07 sa=1.6e-06 sb=6.35e-07 sca=19.1541 scb=0.0174883 scc=0.00172295
Mmp36	Mmp36:d	Mmp36:g	Mmp36:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0589P	AS=0.06045P	PD=1U	PS=1.01U
+ fw=3.1e-07 sa=1.84e-06 sb=3.95e-07 sca=19.1541 scb=0.0174883 scc=0.00172295
Mmp25	Mmp36:d	Mmp25:g	Mmp25:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0589P	AS=0.0496P	PD=1U	PS=1.13U
+ fw=3.1e-07 sa=2e-06 sb=1.6e-07 sca=19.1541 scb=0.0174883 scc=0.00172295
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.06695P	PD=0.71U	PS=1.24U
+ fw=2.15e-07 sa=1.4e-07 sb=7.46279e-07 sca=10.3256 scb=0.00769229 scc=9.29431e-05
Mmp12	Mmp12:d	Mmp12:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0234P	AS=0.06695P	PD=0.9U	PS=1.24U
+ fw=3.9e-07 sa=2.73654e-07 sb=5.13333e-07 sca=14.3987 scb=0.0130081 scc=0.000814275
Mmp13	Mmp13:d	Mmp13:g	Mmp13:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0234P	PD=1.1U	PS=0.9U
+ fw=3.9e-07 sa=3.78654e-07 sb=4.08333e-07 sca=14.3987 scb=0.0130081 scc=0.000814275
Mmp11	Mmp13:d	Mmp11:g	Mmp11:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.0793P	PD=1.1U	PS=1.29U
+ fw=3.9e-07 sa=5.83654e-07 sb=2.03333e-07 sca=14.3987 scb=0.0130081 scc=0.000814275
Mmp10	Mmp10:d	Mmp10:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0263P	AS=0.0519P	PD=0.71U	PS=1.1U
+ fw=2.15e-07 sa=1.22326e-07 sb=1.00372e-06 sca=10.3756 scb=0.00778655 scc=9.84544e-05
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0234P	AS=0.0519P	PD=0.9U	PS=1.1U
+ fw=3.9e-07 sa=2.25321e-07 sb=8.84551e-07 sca=11.3866 scb=0.00953811 scc=0.000231855
Mmp2	Mmp2:d	Mmp2:g	Mmp2:s	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0702P	AS=0.0234P	PD=1.14U	PS=0.9U
+ fw=3.9e-07 sa=3.30321e-07 sb=7.79551e-07 sca=11.3866 scb=0.00953811 scc=0.000231855
Mmp4	Mmp2:d	Mmp4:g	Mmp4:s	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0702P	AS=0.0936P	PD=1.14U	PS=1.26U
+ fw=3.9e-07 sa=5.55321e-07 sb=5.54551e-07 sca=11.6718 scb=0.0096151 scc=0.000231869
Mmp3	Mmp3:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U	W=0.39U
+ AD=0.0936P	AS=0.06535P	PD=1.26U	PS=1.16U
+ fw=3.9e-07 sa=8.40321e-07 sb=2.69551e-07 sca=13.0988 scb=0.0108483 scc=0.000234868
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.06535P	PD=0.71U	PS=1.16U
+ fw=2.15e-07 sa=9.8814e-07 sb=1.4e-07 sca=18.2097 scb=0.0194526 scc=0.000535674
.ENDS
.END
